US06670373B1
In a fashion similar to that for preparation 14, 2-Fluoro-4-bromo-benzaldehyde oxime (2.77 g, 12.7 mmol), N-chlorosuccinimide (1.76 g, 13.2 mmol), and DMF (25 ml) gave 2-fluoro-4-bromo-benzoyl chloride oxime (2.61 g, 81%) after filtration through a plug of silica gel eluting with hexanes/Et2O.

reactant | 2-Fluoro-4-bromo-benzaldehyde oxime | 12.7 mmol, 2.77 g | FC1=C(C=NO)C=CC(=C1)Br | C7H5BrFNO
reactant | N-chlorosuccinimide | 13.2 mmol, 1.76 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 2-fluoro-4-bromo-benzoyl chloride oxime | 2.61 g, 81% | FC1=C(C(Cl)=NO)C=CC(=C1)Br | C7H4BrClFNO
